US06239074B1
3-(4-Chloro-3-ethoxycarbonylhydrazonomethylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.91)
1.0 g of ethyl hydrazinecarboxylate was added to a solution of 3.3 g of 3-[4-chloro-3-formylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine and 0.1 g of p-toluenesulfonic acid in 150 ml of toluene. After 2 hours, the solution was washed once with water, the organic phase was dried over sodium sulfate and evaporated down and the residue was stirred with petroleum ether. The precipitate was isolated, washed with petroleum ether and dried.

reactant | ethyl hydrazinecarboxylate | 1.0 g | N(N)C(=O)OCC | C3H8N2O2
reactant | 3-[4-chloro-3-formylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 3.3 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-Chloro-3-ethoxycarbonylhydrazonomethylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=NNC(=O)OCC | C16H14ClF3N4O4
